US04070539
Step B: (1-Oxo-2-bromo-2-ethyl-6,7-dimethyl-5-indanyloxy)acetic Acid
By following substantially the same procedure as described in Example 1, Step B, using as the reactants (1-oxo-2-ethyl-6,7-dimethyl-5indanyloxy)acetic acid (10.5 g., 0.04 mole), bromine (6.4 g., 0.04 mole), acetic acid (125 ml.) and 48% aqueous hydrobromic acid (2 drops), there is obtained 8.6 g. (63%) of (1oxo-2bromo-2-ethyl-6,7-dimethyl-5-indanyloxy)acetic acid which melts at 136°-139° C. after recrystallization from butyl chloride (200 ml.).

reactant | (1-oxo-2-ethyl-6,7-dimethyl-5indanyloxy)acetic acid | 0.04 mole, 10.5 g | O=C1C(CC2=CC(=C(C(=C12)C)C)OCC(=O)O)CC | C15H18O4
reactant | bromine | 0.04 mole, 6.4 g | BrBr | Br2
catalyst | hydrobromic acid | 2 drops | Br | BrH
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | (1-Oxo-2-bromo-2-ethyl-6,7-dimethyl-5-indanyloxy)acetic Acid | O=C1C(CC2=CC(=C(C(=C12)C)C)OCC(=O)O)(CC)Br | C15H17BrO4
